US06528525B1
(a) Diethyl 2-methyl-2-(3-phenylpropyl)malonate
In a similar manner to that described in Reference example 2(a), a reaction was carried out using diethyl 2-methylmalonate (3.48 g), 3-phenylpropyl bromide (3.98 g) and sodium hydride (55% suspension in oil, 0.96 g) and the reaction mixture was treated to afford the desired compound (4.63 g) as a syrup.

reactant | diethyl 2-methylmalonate | 3.48 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 3-phenylpropyl bromide | 3.98 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | sodium hydride | 0.96 g | [H-].[Na+]
product | Diethyl 2-methyl-2-(3-phenylpropyl)malonate | 4.63 g | CC(C(=O)OCC)(C(=O)OCC)CCCC1=CC=CC=C1 | C17H24O4
